Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
atorvastatin
 
Attending: ___.
 
Chief Complaint:
L ankle pain
 
Major Surgical or Invasive Procedure:
___ - ORIF L Ankle (___)
 
History of Present Illness:
___ y/o F presenting s/p mechanical fall this evening. She 
reports immediate pain of the left ankle after feeling it twist. 
She was also unable to bear weight. Currently denies parathesias 
or numbness. 
 
Past Medical History:
PMH/PSH: 
1.  Hypertension.
2.  Hyperlipidemia.
3.  Glucose intolerance.
4.  Gastroesophageal reflux.
5.  Allergic rhinitis.
6.  Status post H. pylori infection - confirmed eradicated ___.
7.  Breast biopsy bilateral in the ___ and ___.  The patient
denies any cancer.
8.  Bilateral oophorectomy and hysterectomy - ___.
 
Social History:
___
Family History:
NC
 
Physical Exam:
VS: 99.1  103  148/72  18  98ra
Gen: NAD, AAOx3
LLE exam:
SILT S/S/SP/DP/T
fires ___
WWP
Splint in place
 
Pertinent Results:
___ 07:10AM BLOOD WBC-7.0 RBC-4.03* Hgb-11.1* Hct-33.4* 
MCV-83 MCH-27.6 MCHC-33.3 RDW-14.9 Plt ___

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have L ankle fracture and was admitted to the orthopedic 
surgery service.  The patient was taken to the operating room on 
___ for ORIF L ankle, which the patient tolerated well (for 
full details please see the separately dictated operative 
report). The patient was taken from the OR to the PACU in stable 
condition and after recovery from anesthesia was transferred to 
the floor.  The patient was initially given IV fluids and IV 
pain medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given perioperative 
antibiotics and anticoagulation per routine.  The patients home 
medications were continued throughout this hospitalization.  The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is touchdown weightbearing in the 
left lower extremity, and will be discharged on Lovenox for DVT 
prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge.
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*2
2. Amlodipine 2.5 mg PO DAILY 
3. Calcium Carbonate 500 mg PO BID 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Omeprazole 20 mg PO BID 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*61 Tablet Refills:*0
7. Pravastatin 40 mg PO DAILY 
8. Vitamin D 400 UNIT PO DAILY 
9. Enoxaparin Sodium 40 mg SC DAILY Duration: 14 Days 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC daily Disp #*14 Syringe 
Refills:*0
10. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*2
11. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*30 Tablet Refills:*2

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
L bimalleolar ankle fracture
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- Please be careful to keep your splint dry until your follow-up 
appointment.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.

ACTIVITY AND WEIGHT BEARING:
- Touchdown weightbearing left lower extremity
Physical Therapy:
Touchdown weightbearing in left lower extremity.
Please keep splint on until your follow-up appointment.
Treatment Frequency:
Please keep splint on until your follow-up appointment. Please 
keep your splint dry. You may elevate your foot for comfort as 
you like. Any sutures/staples will be removed at your follow up 
appointment.
 
Followup Instructions:
___